*$
* OPA1641
*************************************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.
*************************************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*************************************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*************************************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA1641
* Date: 08FEB2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS484D -DECEMBER 2009-REVISED APRIL 2016
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* Added Unique subckt name, removed Claw ABS.
* Simplified subckt for current noise.
*
* Final 1.0
* Release to Web.
*
****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled:
* OPEN-LOOP GAIN AND PHASE VS. FREQUENCY WITH RL, CL EFFECTS (Aol)
* UNITY GAIN BANDWIDTH (GBW)
* INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* DIFFERENTIAL INPUT IMPEDANCE (Zid)
* COMMON-MODE INPUT IMPEDANCE (Zic)
* OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* SLEW RATE (SR)
* SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* LARGE SIGNAL RESPONSE
* OVERLOAD RECOVERY TIME (tor)
* INPUT BIAS CURRENT (Ib)
* INPUT OFFSET CURRENT (Ios)
* INPUT OFFSET VOLTAGE (Vos)
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
* 2. Model represent the device operating at room temperature only. No temperature dependency is modeled
******************************************************
* connections:        non-inverting input
*                     |   inverting input
*                     |   |    positive power supply
*                     |   |   |   negative power supply
*                     |   |   |   |   output
*                     |   |   |   |   |
.subckt OPAMP_SINGLE  IN+ IN- VCC VEE OUT
******************************************************
.model R_NOISELESS RES (TCE=0 T_ABS=-273.15)
******************************************************
I_OS ESDn MID 4e-12
I_B 30 MID 2e-12
V_GRp 45 MID 56
V_GRn 46 MID -55
V_ISCp 39 MID 36.5994
V_ISCn 40 MID -28.98
V_ORn 38 VCLP -11.9328
V11 44 37 0
V_ORp 36 VCLP 11.8605
V12 43 35 0
V4 27 OUT 0
VCM_MIN 67 VEE_B -0.1
VCM_MAX 68 VCC_B -3.5
I_Q VCC VEE 0.0018
V_OS 75 30 0.000995
XU5 ESDp ESDn VCC VEE ESD_0_OPA1641
XU4 19 ESDp MID PSRR_CMRR_0_OPA1641
XU3 20 VEE_B MID PSRR_CMRR_1_OPA1641
XU2 21 VCC_B MID PSRR_CMRR_2_OPA1641
XU1 23 22 CLAMP VSENSE CLAW_CLAMP CL_CLAMP 24 26 27 MID AOL_ZO_0_OPA1641
C28 31 MID 1P
R77 32 31 R_NOISELESS 100
C27 33 MID 1P
R76 34 33 R_NOISELESS 100
R75 MID 35 R_NOISELESS 1
GVCCS8 35 MID 36 MID -1
R74 37 MID R_NOISELESS 1
GVCCS7 37 MID 38 MID -1
Xi_nn ESDn MID FEMT_0_OPA1641
Xi_np MID 30 FEMT_0_OPA1641
Xe_n ESDp 30 VNSE_0_OPA1641
XIQPos VIMON MID MID VCC VCCS_LIMIT_IQ_0_OPA1641
XIQNeg MID VIMON VEE MID VCCS_LIMIT_IQ_0_OPA1641
C_DIFF ESDp ESDn 8e-12
XCL_AMP 39 40 VIMON MID 41 42 CLAMP_AMP_LO_0_OPA1641
SOR_SWp CLAMP 43 CLAMP 43 S_VSWITCH_1
SOR_SWn 44 CLAMP 44 CLAMP S_VSWITCH_1
XGR_AMP 45 46 47 MID 48 49 CLAMP_AMP_HI_0_OPA1641
R39 45 MID R_NOISELESS 1T
R37 46 MID R_NOISELESS 1T
R42 VSENSE 47 R_NOISELESS 1M
C19 47 MID 1F
R38 48 MID R_NOISELESS 1
R36 MID 49 R_NOISELESS 1
R40 48 50 R_NOISELESS 1M
R41 49 51 R_NOISELESS 1M
C17 50 MID 1F
C18 MID 51 1F
XGR_SRC 50 51 CLAMP MID VCCS_LIM_GR_0_OPA1641
R21 41 MID R_NOISELESS 1
R20 MID 42 R_NOISELESS 1
R29 41 52 R_NOISELESS 1M
R30 42 53 R_NOISELESS 1M
C9 52 MID 1F
C8 MID 53 1F
XCL_SRC 52 53 CL_CLAMP MID VCCS_LIM_4_0_OPA1641
R22 39 MID R_NOISELESS 1T
R19 MID 40 R_NOISELESS 1T
XCLAWp VIMON MID 54 VCC_B VCCS_LIM_CLAW+_0_OPA1641
XCLAWn MID VIMON VEE_B 55 VCCS_LIM_CLAW-_0_OPA1641
R12 54 VCC_B R_NOISELESS 1K
R16 54 56 R_NOISELESS 1M
R13 VEE_B 55 R_NOISELESS 1K
R17 57 55 R_NOISELESS 1M
C6 57 MID 1F
C5 MID 56 1F
G2 VCC_CLP MID 56 MID -1M
R15 VCC_CLP MID R_NOISELESS 1K
G3 VEE_CLP MID 57 MID -1M
R14 MID VEE_CLP R_NOISELESS 1K
XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID 58 59 CLAMP_AMP_LO_0_OPA1641
R26 VCC_CLP MID R_NOISELESS 1T
R23 VEE_CLP MID R_NOISELESS 1T
R25 58 MID R_NOISELESS 1
R24 MID 59 R_NOISELESS 1
R27 58 60 R_NOISELESS 1M
R28 59 61 R_NOISELESS 1M
C11 60 MID 1F
C10 MID 61 1F
XCLAW_SRC 60 61 CLAW_CLAMP MID VCCS_LIM_3_0_OPA1641
H2 34 MID V11 -1
H3 32 MID V12 1
C12 SW_OL MID 100P
R32 62 SW_OL R_NOISELESS 100
R31 62 MID R_NOISELESS 1
XOL_SENSE MID 62 33 31 OL_SENSE_0_OPA1641
S1 24 26 SW_OL MID S_VSWITCH_3
H1 63 MID V4 1K
S7 VEE OUT VEE OUT S_VSWITCH_4
S6 OUT VCC OUT VCC S_VSWITCH_4
R11 MID 64 R_NOISELESS 1T
R18 64 VOUT_S R_NOISELESS 100
C7 VOUT_S MID 1N
E5 64 MID OUT MID 1
C13 VIMON MID 1N
R33 63 VIMON R_NOISELESS 100
R10 MID 63 R_NOISELESS 1T
R47 65 VCLP R_NOISELESS 100
C24 VCLP MID 100P
E4 65 MID CL_CLAMP MID 1
C4 23 MID 1F
R9 23 66 R_NOISELESS 1M
R7 MID 67 R_NOISELESS 1T
R6 68 MID R_NOISELESS 1T
R8 MID 66 R_NOISELESS 1
XVCM_CLAMP 69 MID 66 MID 68 67 VCCS_EXT_LIM_0_OPA1641
E1 MID 0 70 0 1
R89 VEE_B 0 R_NOISELESS 1
R5 71 VEE_B R_NOISELESS 1M
C3 71 0 1F
R60 70 71 R_NOISELESS 1MEG
C1 70 0 1
R3 70 0 R_NOISELESS 1T
R59 72 70 R_NOISELESS 1MEG
C2 72 0 1F
R4 VCC_B 72 R_NOISELESS 1M
R88 VCC_B 0 R_NOISELESS 1
G17 VEE_B 0 VEE 0 -1
G16 VCC_B 0 VCC 0 -1
R_PSR 73 69 R_NOISELESS 1K
G_PSR 69 73 21 20 -1M
R2 22 ESDn R_NOISELESS 1M
R1 73 74 R_NOISELESS 1M
R_CMR 75 74 R_NOISELESS 1K
G_CMR 74 75 19 MID -1M
C_CMn ESDn MID 6e-12
C_CMp MID ESDp 6e-12
R53 ESDn MID R_NOISELESS 1T
R52 MID ESDp R_NOISELESS 1T
R35 IN- ESDn R_NOISELESS 10M
R34 IN+ ESDp R_NOISELESS 10M
.MODEL S_VSWITCH_1 VSWITCH (RON=10e-3 ROFF=1e9 VON=10e-3 VOFF=0)
.MODEL S_VSWITCH_3 VSWITCH (RON=1e-3 ROFF=1e9 VON=900e-3 VOFF=800e-3)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1e12 VON=500e-3 VOFF=450e-3)
.ENDS OPA1641
*
.SUBCKT ESD_0_OPA1641 ESDp ESDn VCC VEE
S2 ESDn VCC ESDn VCC S_VSWITCH_1
S4 VEE ESDn VEE ESDn S_VSWITCH_1
S3 ESDp VCC ESDp VCC S_VSWITCH_1
S5 VEE ESDp VEE ESDp S_VSWITCH_1
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1e12 VON=500e-3 VOFF=450e-3)
.ENDS
*
.SUBCKT PSRR_CMRR_0_OPA1641 psrr_in psrr_vccb mid
.model R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R74 mid psrr_in R_NOISELESS 1
G_2 psrr_in mid 4 mid -36.1316
R2b mid 4 R_NOISELESS 2846443.8473
C2a 4 5 1.0178e-14
R73 5 4 R_NOISELESS 100MEG
R49 mid 5 R_NOISELESS 1
GVCCS7 5 mid 6 mid -1
R2a mid 6 R_NOISELESS 11367.1456
C1a 6 7 2.2769e-12
R48 7 6 R_NOISELESS 100MEG
G_1 7 mid psrr_vccb mid -0.0021692
Rsrc mid 7 R_NOISELESS 1
.ENDS
*
.SUBCKT PSRR_CMRR_1_OPA1641 psrr_in psrr_vccb psrr_mid
.model R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R80 psrr_mid psrr_in R_NOISELESS 33.3333
C27 psrr_in 4 1.5915e-09
R79 4 psrr_in R_NOISELESS 100MEG
GVCCS8 4 psrr_mid psrr_vccb psrr_mid -0.13345
R78 psrr_mid 4 R_NOISELESS 1
.ENDS
*
.SUBCKT PSRR_CMRR_2_OPA1641 psrr_in psrr_vccb psrr_mid
.model R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R80 psrr_mid psrr_in R_NOISELESS 45.5638
C27 psrr_in 4 1.5877e-09
R79 4 psrr_in R_NOISELESS 100MEG
GVCCS8 4 psrr_mid psrr_vccb psrr_mid -0.30495
R78 psrr_mid 4 R_NOISELESS 1
.ENDS
*
.SUBCKT VCCS_LIM_2_0_OPA1641 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 0.021535
.PARAM IPOS = 0.6168
.PARAM INEG = -0.6168
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT VCCS_LIM_1_0_OPA1641 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT AOL_ZO_0_OPA1641 AOL_INP AOL_INN CLAMP VSENSE CLAW_CLAMP CL_CLAMP ZO_CLEFT ZO_CRIGHT ZO_OUT MID
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
C1_A0 CLAMP MID 3.034e-08
R4_A0 MID CLAMP R_NOISELESS 1MEG
XVCCS_LIM_2_A0 4_A0 MID MID CLAMP VCCS_LIM_2_0_OPA1641
R3_A0 MID 4_A0 R_NOISELESS 1MEG
XVCCS_LIM_1_A0 AOL_INP AOL_INN MID 4_A0 VCCS_LIM_1_0_OPA1641
R4_VS VSENSE MID R_NOISELESS 1K
GVCCS4_VS VSENSE MID CLAMP MID -1M
C2_A2 out2 MID 6.6315e-14
R3_A2 out2 MID R_NOISELESS 1MEG
GVCCS3_A2 out2 MID VSENSE MID -1U
C3_A3 4_A3 out3 4.9379e-12
GVCCS4_A3 4_A3 MID out2 MID -639.8821
R4_A3 4_A3 MID R_NOISELESS 1
R5_A3 out3 4_A3 R_NOISELESS 10K
R6_A3 out3 MID R_NOISELESS 15.6523
C2_A4 out4 MID 1.0015e-15
R3_A4 out4 MID R_NOISELESS 1MEG
GVCCS3_A4 out4 MID out3 MID -1U
C2_A5 out5 MID 8.1759e-16
R3_A5 out5 MID R_NOISELESS 1MEG
GVCCS3_A5 out5 MID out4 MID -1U
C2_A6 out6 MID 8.1759e-16
R3_A6 out6 MID R_NOISELESS 1MEG
GVCCS3_A6 out6 MID out5 MID -1U
C2_A7 out7 MID 8.1759e-16
R3_A7 out7 MID R_NOISELESS 1MEG
GVCCS3_A7 out7 MID out6 MID -1U
C2_A8 out8 MID 2.8937e-16
R3_A8 out8 MID R_NOISELESS 1MEG
GVCCS3_A8 out8 MID out7 MID -1U
R4_CC CLAW_CLAMP MID R_NOISELESS 1K
GVCCS4_CC CLAW_CLAMP MID out8 MID -1M
R4_CL CL_CLAMP MID R_NOISELESS 1K
GVCCS4_CL CL_CLAMP MID CLAW_CLAMP MID -1M
G_Aol_Zo Zo_Cleft MID CL_CLAMP ZO_OUT -89.0517
GVCCS1_1 outz1 MID Zo_Cright MID -83.6706
C1_1 Zo_Cleft Zo_Cright 9.5519e-06
R2_1 Zo_Cright MID R_NOISELESS 120.9619
R1_1 Zo_Cright Zo_Cleft R_NOISELESS 10K
Rdc_1 Zo_Cleft MID R_NOISELESS 1
GVCCS2_2 outz2 MID net2 MID -1
C2_2 5_2 MID 3.9653e-12
R5_2 net2 5_2 R_NOISELESS 10K
R4_2 net2 outz1 R_NOISELESS 165044.5518
R7_2 outz1 MID R_NOISELESS 1
R1_3 2_3 MID R_NOISELESS 1
R11_3 5_3 MID R_NOISELESS 6.7534
C4_3 5_3 outz2 1.6422e-13
R10_3 5_3 outz2 R_NOISELESS 10K
XVCVS_LIM_1 5_3 MID MID 2_3 VCCS_LIM_ZO_0_OPA1641
R9_3 outz2 MID R_NOISELESS 1
Rdummy MID ZO_OUT R_NOISELESS 1584.893
Rx ZO_OUT 2_3 R_NOISELESS 15848.93
.ENDS
*
.SUBCKT VCCS_LIM_ZO_0_OPA1641 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1481.7407
.PARAM IPOS = 1160.123E3
.PARAM INEG = -918.604E3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT FEMT_0_OPA1641 1 2
.PARAM NVRF=0.8
.PARAM RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1E-6
.ENDS
*
.SUBCKT VNSE_0_OPA1641 1 2
.PARAM FLW=0.1
.PARAM NLF=46.4919
.PARAM NVR=5.0539
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
*
.SUBCKT VCCS_LIMIT_IQ_0_OPA1641 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
*
.SUBCKT CLAMP_AMP_LO_0_OPA1641 VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*
.SUBCKT CLAMP_AMP_HI_0_OPA1641 VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*
.SUBCKT VCCS_LIM_GR_0_OPA1641 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 1.2336E1
.PARAM INEG = -1.2336E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT VCCS_LIM_4_0_OPA1641 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.2352E1
.PARAM INEG = -0.231E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT VCCS_LIM_CLAW+_0_OPA1641 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 2.1186E-4)
+(12.1998, 0.0003505)
+(24.3996, 0.00037005)
+(32.5328, 0.00049199)
+(32.9395, 0.00050932)
+(33.7528, 0.00055193)
+(34.5661, 0.0006607)
+(35.3794, 0.00086684)
+(36.1927, 0.0014151)
+(36.5994, 0.0018692)
.ENDS
*
.SUBCKT VCCS_LIM_CLAW-_0_OPA1641 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 2.1186E-4)
+(9.66, 0.00036002)
+(19.3199, 0.00036763)
+(25.7599, 0.00037452)
+(26.0819, 0.00037487)
+(26.7259, 0.00037556)
+(27.3699, 0.00037625)
+(28.0139, 0.00037694)
+(28.6579, 0.00072576)
+(28.9799, 0.0018986)
.ENDS
*
.SUBCKT VCCS_LIM_3_0_OPA1641 VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.1176E1
.PARAM INEG = -0.1155E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
.SUBCKT OL_SENSE_0_OPA1641 COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
*
.SUBCKT VCCS_EXT_LIM_0_OPA1641 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
*
